US09079887B2
To a solution of (2S,5S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidine-1-carboxylate (1.0 g, 2.5 mmol) and (2S,4S)-tert-butyl 4-(methoxymethyl)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (1.4 g, 2.8 mmol) in DME (12.5 mL) was added tetrakis(triphenylphosphine)-palladium (0.28 g, 0.24 mmol) and aqueous potassium phosphate (2M, 3.7 mL, 7.4 mmol). The resulting slurry was degassed with argon for 5 min and heated to 80° C. for 18 h. The reaction was cooled to room temperature and diluted with a mixture of CH2Cl2 (10% MeOH). The solution was washed with water and brine. The aqueous layer was backextracted with CH2Cl2 (10% MeOH). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The crude oil was purified by column chromatography (SiO2, 50 to 100% EtOAc (5% MeOH)/Hexanes) to provide (2S,4S)-tert-butyl 2-(5-(4′-(2-((2S,5S)-1-(tert-butoxycarbonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidine-1-carboxylate (1.2 g, 73%). LCMS-ESI+: calc'd for C39H50N6O5: 688.38 (M+). Found: 683.51 (M+H+).

reactant | (2S,5S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidine-1-carboxylate | 2.5 mmol, 1.0 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@H](CC1)C)C(=O)OC(C)(C)C | C19H24BrN3O2
reactant | (2S,4S)-tert-butyl 4-(methoxymethyl)-2-(5-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 2.8 mmol, 1.4 g | COC[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C26H38BN3O5
reactant | potassium phosphate | 7.4 mmol, 2M, 3.7 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | 12.5 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.24 mmol, 0.28 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (2S,4S)-tert-butyl 2-(5-(4′-(2-((2S,5S)-1-(tert-butoxycarbonyl)-5-methylpyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)-4-(methoxymethyl)pyrrolidine-1-carboxylate | 1.2 g, 73% | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1C)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(C[C@H](C1)COC)C(=O)OC(C)(C)C | C39H50N6O5
